US04359581
1(o) (1R,5S,6S,7R)-7-Benzoyloxy-6-hydroxymethylbicyclo[3,3,0]octan-3-one
A solution of 680 mg. of the benzoate prepared according to Reference Example 1(n) in 10 ml. of ethyl acetate and 0.5 ml. of glacial acetic acid is combined with 120 mg. of palladium on charcoal (10%) and shaken for 8 hours under a hydrogen atmosphere. Filtration and evaporation of the solution under vacuum yields 600 mg. of an oily crude product, which is purified by chromatography on silica gel with pentane/ethyl acetate (1+1), and 395 mg. of the pure alcohol as a colorless oil.

reactant | benzoate | C(C1=CC=CC=C1)(=O)[O-]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | acetic acid | C(C)(=O)O | C2H4O2
catalyst | palladium on charcoal | [Pd] | Pd
product | (1R,5S,6S,7R)-7-Benzoyloxy-6-hydroxymethylbicyclo[3,3,0]octan-3-one | C(C1=CC=CC=C1)(=O)O[C@H]1[C@@H]([C@H]2CC(C[C@H]2C1)=O)CO | C16H18O4
